US07312234B2
AMD9702: Pyridine-2-carboxylic acid 3-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzylamide (hydrobromide salt)
Using the EDCI coupling general procedure F: Reaction of (3-aminomethyl-benzyl)-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (133 mg, 0.33 mmol), picolinic acid (40 mg, 0.33 mmol), 1-hydroxybenzotriazole (45 mg, 0.33 mmol), DIPEA (100 uL, 0.57 mmol), and EDCI (64 mg, 0.33 mmol) in anhydrous DMF (3 mL) for 3 d at room temperature followed by purification of the crude material by chromatography on silica gel (2:2:96 CH3OH—NH3 H2O—CH2Cl2) afforded the title compound (158 mg, 94%) as a white foam.

reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | (5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.33 mmol, 133 mg | N1=CC=CC=2CCCC(C12)N | C9H12N2
reactant | picolinic acid | 0.33 mmol, 40 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1-hydroxybenzotriazole | 0.33 mmol, 45 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DIPEA | 0.57 mmol, 100 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.33 mmol, 64 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Pyridine-2-carboxylic acid 3-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzylamide | 158 mg, 94% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC=2C=C(CNC(=O)C1=NC=CC=C1)C=CC2 | C31H30N6O
